US07825114B2
Preparation of 1-[4-(3-amino-6-cyclopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(2-fluoro-phenyl)-urea
In analogy to the GP 5, reaction of 175 mg trifluoromethanesulphonic acid 3-cyano-6-cyclopropyl-4-{4-[3-(2-fluoro-phenyl)-ureido]-phenyl}-pyridin-2-yl ester (0.336 mmol) with 62 μl 80% hydrazine hydrate in 1-propanol yielded 35 mg product (0.087 mmol, 26% yield).

reactant | trifluoromethanesulphonic acid 3-cyano-6-cyclopropyl-4-{4-[3-(2-fluoro-phenyl)-ureido]-phenyl}-pyridin-2-yl ester | 0.336 mmol, 175 mg | C(#N)C=1C(=NC(=CC1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)C1CC1)OS(=O)(=O)C(F)(F)F | C23H16F4N4O4S
reactant | hydrazine hydrate | 62 μl | O.NN
solvent | 1-propanol | C(CC)O | C3H8O
product | 1-[4-(3-amino-6-cyclopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(2-fluoro-phenyl)-urea | 0.087 mmol, 35 mg, 26% yield | NC1=NNC2=NC(=CC(=C21)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC=C2)F)C2CC2 | C22H19FN6O
